US07834051B2
2-fluoro-4-[(2S,3S)-3-hydroxy-2-methyl-5-oxopyrrolidin-1-yl]-3-methylbenzonitrile
To a solution of 4-[(2S,3S)-3-(tert-butyldimethylsilyloxy)-2-methyl-5-oxopyrrolidin-1-yl]-2-fluoro-3-methylbenzonitrile (330 mg) in THF (10 mL) was added tetrabutylammonium fluoride-THF solution (1.18 mL, 1 mol/L), and the mixture was stirred at room temperature for 5 hr. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography, and recrystallized from hexane-ethyl acetate to give the title compound as a colorless solid (yield: 139 mg, 62%).

reactant | 4-[(2S,3S)-3-(tert-butyldimethylsilyloxy)-2-methyl-5-oxopyrrolidin-1-yl]-2-fluoro-3-methylbenzonitrile | 330 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](N(C(C1)=O)C1=C(C(=C(C#N)C=C1)F)C)C | C19H27FN2O2Si
reactant | tetrabutylammonium fluoride THF | 1 mol/L, 1.18 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-fluoro-4-[(2S,3S)-3-hydroxy-2-methyl-5-oxopyrrolidin-1-yl]-3-methylbenzonitrile | yield: 139 mg, 62% | FC1=C(C#N)C=CC(=C1C)N1[C@H]([C@H](CC1=O)O)C | C13H13FN2O2
